US07855215B2
Utilising a similar procedure, but employing 5-[(2-chloro-4-pyrimidinyl)oxy]-1H-indole in lieu of 5-[(6-chloro-4-pyrimidinyl)oxy]-1H-indole afforded 5-[(2-chloro-4-pyrimidinyl)oxy]-2,3-dihydro-1H-indole, as an oil.

reactant | 5-[(2-chloro-4-pyrimidinyl)oxy]-1H-indole | ClC1=NC=CC(=N1)OC=1C=C2C=CNC2=CC1 | C12H8ClN3O
reactant | 5-[(6-chloro-4-pyrimidinyl)oxy]-1H-indole | ClC1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C12H8ClN3O
product | 5-[(2-chloro-4-pyrimidinyl)oxy]-2,3-dihydro-1H-indole | ClC1=NC=CC(=N1)OC=1C=C2CCNC2=CC1 | C12H10ClN3O
